US04902719
G. Preparation of 7-fluoro-3,6-bisphthalimidoheptene
To a solution of triphenylphosphine (103 g, 0.39 mol), phthalimide (57.8 g, 0.43 mol) and 3-hydroxy-7-fluoro-6-phthalimidoheptene (109 g, 0.39 mol) in dry THF (2 L) under nitrogen, was added dropwise a solution of diethylazodicarboxylate (75.4 g, 0.43 mol) in dry THF (1 L). The solution was kept <20° C. The reaction mixture was stirred for 72 hours. The THF layer was separated and evaporated to give an oil which was boiled in water (5×250 mL), the water was decanted and the residue was dissolved in dichloromethane. After washing with water, the organic phase was separated, dried over Na2SO4 and evaporated to eliminate triphenylphosphine oxide. Evaporation of the ether phase and chromatography of the residue (200 g) on silica gel (1.5 kg), elution with petroleum ether/ethyl acetate (2:3) afforded the title compound (8, R=--CH2F) as a white solid: 36.4 g (22.8%). TLC PE/EtOAc 1:1, Rf=0.78. NMR (1H, CDCl3, 90 MHz).

reactant | triphenylphosphine | 0.39 mol, 103 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 0.43 mol, 57.8 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 3-hydroxy-7-fluoro-6-phthalimidoheptene | 0.39 mol, 109 g | OC(C=C)CCC(CF)N1C(C=2C(C1=O)=CC=CC2)=O | C15H16FNO3
reactant | diethylazodicarboxylate | 0.43 mol, 75.4 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | water | 250 mL | O | H2O
product | 7-fluoro-3,6-bisphthalimidoheptene | FCC(CCC(C=C)N1C(C=2C(C1=O)=CC=CC2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H19FN2O4
